US09102591B2
2,3-Dichloro-N-[[4,4-difluoro-1-(6-fluoro-3-pyridyl)cyclohexyl]methyl]benzamide
A solution of C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine (38 mg, 0.157 mmol), 2,3-dichlorobenzoic acid (30 mg, 0.157 mmol), HOBt (25 mg, 0.185 mmol), EDCI.HCl (36 mg, 0.185 mmol) and DIPEA (48 mg, 0.345 mmol) in DMF (2 mL) was stirred at room temperature overnight. Water was added to the solution followed by extraction with EtOAc (3×10 ml). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product was purified by Prep. HPLC to give the title compound (25 mg, yield: 38%). 1H NMR (CDCl3 300 MHz): δ ppm 8.18 (d, J=2.8 Hz, 1H), 7.89-7.80 (m, 1H), 7.50 (dd, J=8.0 Hz, 2.0 Hz, 1H), 7.33 (dd, J=7.6 Hz, 1.6 Hz, 1H), 7.28-7.18 (m, 1H), 6.98 (dd, J=8.8 Hz, 3.2 Hz, 1H), 5.85 (t, J=6.8 Hz, 1H), 3.64 (d, J=6.8 Hz, 2H), 2.36-2.00 (m, 6H), 1.87-1.65 (m, 2H). LCMS (MH+): m/z=417.1, tR (minutes, Method C)=1.11

reactant | C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine | 0.157 mmol, 38 mg | FC1(CCC(CC1)(C=1C=NC(=CC1)F)CN)F | C12H15F3N2
reactant | 2,3-dichlorobenzoic acid | 0.157 mmol, 30 mg | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | HOBt | 0.185 mmol, 25 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.185 mmol, 36 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.345 mmol, 48 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2,3-Dichloro-N-[[4,4-difluoro-1-(6-fluoro-3-pyridyl)cyclohexyl]methyl]benzamide | 25 mg, yield: 38% | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)F)C=CC=C1Cl | C19H17Cl2F3N2O
